US07615562B2
2-Methyl-4-{5-[2-(2,2,6,6-tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-thiophen-2-yl}-but-3-yn-2-ol
{4-[5-Bromothiophen-2-yl]-pyrimidin-2-yl}-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine, described in Example 5, (300 mg, 0.76 mmol), PdCl2(PPh3)2 (18 mg, 0.025 mmol), 2-methyl-but-3-yn-2-ol (0.3 ml, 2.53 mmol) and CuI (15 mg) were dissolved in triethylamine (25 ml) and refluxed for 1 hour. The reaction mixture was evaporated, taken up in water and extracted 3 times with TBME. The combined organic phases were dried over sodium sulfate, filtered, and purified via chromatography on silicagel (DCM/MeOH/ammonia:95/5/1 to 90/10/1) to give the title compound as white solid, which was crystallized as HCl-salt from EtOH/HCl. Yield: 150 mg (32%).

reactant | {4-[5-Bromothiophen-2-yl]-pyrimidin-2-yl}-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | BrC1=CC=C(S1)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C17H23BrN4S
reactant | 2-methyl-but-3-yn-2-ol | 2.53 mmol, 0.3 ml | CC(C)(C#C)O | C5H8O
solvent | triethylamine | 25 ml | C(C)N(CC)CC | C6H15N
catalyst | PdCl2(PPh3)2 | 0.76 mmol, 300 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 15 mg | [Cu]I
product | 2-Methyl-4-{5-[2-(2,2,6,6-tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-thiophen-2-yl}-but-3-yn-2-ol | CC(C)(C#CC=1SC(=CC1)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C)O | C22H30N4OS
